US20010027196A1
6-Furan-2-yl-5-iodo-N4-methyl-pyrimidine-2,4-diamine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine and methylamine in THF/ethanol. ES-MS m/e (%): 317 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | methylamine | CN | CH5N
solvent | THF ethanol | C1CCOC1.C(C)O
product | 6-Furan-2-yl-5-iodo-N4-methyl-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NC)I | C9H9IN4O
